US04810713
α-(4-Fluorophenyl)-α-phenyl-4-pyridinemethanol
To a suspension of 18.5 g (0.761 mole) of magnesium turnings and several crystals of iodine in 800 ml of anhydrous ether, cooled in an ice bath and under an atmosphere of argon was slowly added a solution of p-bromofluorobenzene in 200 ml of ether. The solution was stirred for 2 hr at 25° C. and 97.02 g (0.530 mole) of 4-benzoylpyridine was added as a solid. An additional 1 liter of anhydrous ether was added, and the solution was stirred at 25° C. for 3 hr. The reaction mixture was poured into an icy, aqueous solution of ammonium chloride. The mixture stood in the hood overnight and a white solid was collected. The solid was dissolved in a mixture of methanol-methylene chloride. The solution was filtered and the solvent was removed in vacuo. The residue was crystallized from chloroform-hexane to give 66.86 g (45%) of title compound as a white, crystalline solid, m.p. 189°-192° C. Part of this was recrystallized from methylene chloride-acetonitrile-hexane, m.p. 190°-192° C.

reactant | magnesium | 0.761 mole, 18.5 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | p-bromofluorobenzene | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 4-benzoylpyridine | 0.530 mole, 97.02 g | C(C1=CC=CC=C1)(=O)C1=CC=NC=C1 | C12H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 800 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 1 liter | CCOCC | C4H10O
product | α-(4-Fluorophenyl)-α-phenyl-4-pyridinemethanol | 66.86 g, 45% | FC1=CC=C(C=C1)C(O)(C1=CC=NC=C1)C1=CC=CC=C1 | C18H14FNO
